*$
* PART NUMBER: NJM2107
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM2107 +IN V- -IN OUT V+
X_U1     +IN -IN V+ V- OUT NJM2107_ME
.ends  NJM2107
.subckt NJM2107_ME  1 2 3 4 5
  c1   11 12 8.2272E-12
  c2    6  7 28.500E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 707.36E3 -1E3 1E3 710E3 -710E3
  ga    6  0 11 12 595.73E-6
  gcm   0  6 10 99 58.973E-9
  iee   3 10 dc 96.202E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 1.4158E3
  rc2   4 12 1.4158E3
  re1  13 10 974.88
  re2  14 10 974.88
  ree  10 99 2.0790E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 125.30
  vb    9  0 dc 0
  vc    3 53 dc 1.0309
  ve   54  4 dc 1.0309
  vlim  7  8 dc 0
  vlp  91  0 dc 1.5000
  vln   0 92 dc 1.5000
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=449.23)
.model qx2 PNP(Is=0.829E-15 Bf=477.9)
.ends
*$
